data/oMe_Silver.jsonl
{"reaction_id": "NR-226_1-C2CCCCC2_2-C_3-C","level": "medium","name": "Polonovski-Potier Reaction","reactants_smiles": ["O=C(C(F)(F)F)OC(=O)C(F)(F)F","C1CCC[N+]([O-])(C(C2CCCCC2)(C)(C))C1"],"products_smiles": ["C1CCC[N+](C(C2CCCCC2)(C)(C))=C1"],"conditions": "TFAA","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CCC[N+]([O]C([O-])(C(F)(F)F)OC(=O)C(F)(F)F)(C(C2CCCCC2)(C)(C))C1","step_weight": 0,"rationale": "The N-oxide oxygen acts as a nucleophile toward the highly electrophilic carbonyl of TFAA, driven by strong electron withdrawal from CF3 groups, forming an activated intermediate."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1CCC[N+]([O]C(=O)C(F)(F)F)(C(C2CCCCC2)(C)(C))C1","step_weight": 0,"rationale": "The trifluoroacetate anion is an excellent leaving group due to resonance and inductive stabilization by CF3, enabling elimination to form the iminium intermediate."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1CCC[N+](C(C2CCCCC2)(C)(C))=C1","step_weight": 0,"rationale": "Base-assisted deprotonation adjacent to the iminium center is favored, as it restores conjugation and yields the thermodynamically stable alkene product."}],"description": "In the Polonovski-Potier reaction under TFAA activation, the N-oxide oxygen attacks the electrophilic anhydride, forming an activated intermediate. The trifluoroacetate group facilitates leaving group departure, generating an iminium species, which then undergoes deprotonation to yield the alkene product."}
{"reaction_id": "NG-010_1-C#N_2-S(=O)(=O)C_3-c3ccc2ccccc2c3","name": "Bamford-Stevens Reaction","level": "medium","reactants_smiles": ["C(=NNS(=O)(=O)c1ccc(C)cc1)(C(C#N)(S(=O)(=O)C))(c3ccc2ccccc2c3)"],"products_smiles": ["C(=C(C#N)(S(=O)(=O)C))C(c3ccc2ccccc2c3)"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=N[N-]S(=O)(=O)c1ccc(C)cc1)(C(C#N)(S(=O)(=O)C))(c3ccc2ccccc2c3)","rationale": "Base abstracts a proton alpha to the hydrazone nitrogen, stabilized by resonance into the adjacent imine, making the nitrogen anion more nucleophilic and primed for tosylate elimination."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[N+]=[N-])(C(C#N)(S(=O)(=O)C))(c3ccc2ccccc2c3)","rationale": "The negatively charged nitrogen facilitates expulsion of the tosylate, a good leaving group due to resonance stabilization by the sulfonyl group, forming a diazo species."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C](C(C#N)(S(=O)(=O)C))(c3ccc2ccccc2c3)","rationale": "The diazo compound thermally or base-promotedly loses N₂ gas, a highly stable leaving group, generating an electron-deficient carbene intermediate."},{"step": 4,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=C(C#N)(S(=O)(=O)C))C(c3ccc2ccccc2c3)","rationale": "The carbene undergoes a 1,2-shift of C#N or S(=O)(=O)C to stabilize the electron-deficient center, forming the more thermodynamically stable alkene via rearrangement."}],"description": "Under basic conditions, the Bamford–Stevens reaction proceeds via deprotonation of the tosylhydrazone, generating an anion that eliminates the tosylate. This forms a diazo intermediate, which loses nitrogen to yield a carbene. A 1,2-shift then rearranges the carbene to the alkene product."}
